US06211378B1
1-(3-Methylbenzyl)oxy-4-hydroxy-2,2,6,6-tetramethylpiperidine
A mixture of 8.60 g (0.05 mol) of 1-oxyl-4-hydroxy-2,2,6,6-tetramethylpiperidine and 106.17 g (1.0 mol) of m-xylene under a nitrogen atmosphere is heated at 135-136° C. for 69 hours. The reaction mixture is filtered to remove 1,4-dihydroxy-2,2,6,6-tetramethylpiperidine, and the filtrate is washed with 10 w/v % ascorbic acid (3×33 mL) and distilled water (2×50 mL). The organic phase is dried over anhydrous sodium sulfate and the volatiles are removed in vacuo. The residue is recrystallized from heptane to give 3.50 g (51% yield) of a white solid melting at 66-67° C.

reactant | 1-oxyl-4-hydroxy-2,2,6,6-tetramethylpiperidine | 0.05 mol, 8.60 g | ON1C(CC(CC1(C)C)O)(C)C | C9H19NO2
reactant | m-xylene | 1.0 mol, 106.17 g | C1(=CC(=CC=C1)C)C | C8H10
product | 1-(3-Methylbenzyl)oxy-4-hydroxy-2,2,6,6-tetramethylpiperidine | 3.50 g, 51% yield | CC=1C=C(CON2C(CC(CC2(C)C)O)(C)C)C=CC1 | C17H27NO2
